.SUBCKT OP27C      3 2 7 4 6
RC1 7 80 6.6315E+02 
RC2 7 90 6.6315E+02
Q1 80 2 10 QM1
Q2 90 3 11 QM2
* 
C1 80 91 200E-12
RXC1 91 90 50
CXC1 91 90 500E-12
C2 8 98 4.000E-12
RXC2 8 98 4.00K
CXC2 1 98 27.000E-12
*
CIN 3 2 5E-12
DDM1 2 104 DM2
DDM3 104 3 DM2
DDM2 3 105 DM2
DDM4 105 2 DM2
RE1 10 12 -2.6233E+01
RE2 11 12 -2.6233E+01
IEE 12 4 7.5030E-05
RE 12 0 2.666E+06
CE 12 0 1.579E-12
GCM 0 8 12 0 7.558E-10
GA 8 0 80 90 1.5080E-03
R2 8 0 1.000E+05
GB 1 0 8 0 1.9176E+03
RO2 1 0 6.900E+01
*
RS 1 6 1
ECL 18 0 1 6 2.828E+01
GCL 0 8 20 0 1
RCL 20 0 1E3
D1 18 20 DM1
D2 20 18 DM1
*
D3A 131 70 DM3
D3B 13 131 DM3
GPL 0 8 70 7 1
VC 13 6 3.0909
RPLA 7 70 1E4
RPLB 7 131 1E5
D4A 60 141 DM3
D4B 141 14 DM3
GNL 0 8 60 4 1
VE 6 14 3.0909
RNLA 60 4 1E4
RNLB 141 4 1E5
*
IP 7 4 2.625E-03
DSUB 4 7 DM2 
* MODELS 
.MODEL QM1 NPN (IS=8.0000E-16 BF=2.0000E+03)
.MODEL QM2 NPN (IS=8.0093E-16 BF=4.6667E+03)
.MODEL DM1 D (IS=1.000E-19)
.MODEL DM2 D (IS=8.000E-16)
.MODEL DM3 D (IS=1.000E-20)
.ENDS OP27C
